US04929613
Ethyl 1-cyclopropyl-6-fluoro-1,4-dihydro-7-(1-methyl-4-piperidinyl)-4-oxo-3-quinolinecarboxylate.
A solution of 3.91 g (10 mmoles) of ethyl α-[(cyclopropylamino)methylene]-2,5-difluoro-4-(1-methyl-4-piperidinyl)-β-oxobenzenepropanoate in 50 ml of t-butyl alcohol was treated with 1.23 g (11 mmoles) of potassium t-butoxide and heated at 65° C. for 11/2 hours. The mixture was evaporated under vacuum and the residue was stirred in 50 ml of water and neutralized with 1 N HCl. After extraction with chloroform the organic layer was dried (MgSO4) and evaporated to afford the title compound.

reactant | ethyl α-[(cyclopropylamino)methylene]-2,5-difluoro-4-(1-methyl-4-piperidinyl)-β-oxobenzenepropanoate | 10 mmoles, 3.91 g | C1(CC1)NC=C(C(=O)OCC)C(C1=C(C=C(C(=C1)F)C1CCN(CC1)C)F)=O | C21H26F2N2O3
reactant | potassium t-butoxide | 11 mmoles, 1.23 g | CC(C)([O-])C.[K+]
solvent | t-butyl alcohol | 50 ml | C(C)(C)(C)O | C4H10O
product | Ethyl 1-cyclopropyl-6-fluoro-1,4-dihydro-7-(1-methyl-4-piperidinyl)-4-oxo-3-quinolinecarboxylate | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)C1CCN(CC1)C)F)=O)C(=O)OCC | C21H25FN2O3
